US07635715B2
Step A: Preparation of 4-(3-Methoxyphenyl)-tetrahydro-2H-pyran-4-carbonitrile
A mixture of NaH (3.2 g, 79 mmol) in 50 mL NMP stirred at 0° C., was treated dropwise with a mixture of 2-(3-methoxyphenyl)acetonitrile (3.9 g, 26 mmol) and 1-bromo-2-(2-bromoethoxy)ethane (6.1 g, 26 mmol) in 20 mL. The mixture was allowed to warm to room temperature and stirred for 15 hours, M+1=218. The mixture was then carefully quenched with 100 mL H2O and the pH was adjusted to 5. The mixture was extracted with ether (3×100 mL). The combined organic layers were washed with H2O (3×50 mL) and brine (20 mL). The organic layer was dried over anhydrous Na2SO4, concentrated in vacuo, and purified by column chromatography eluting with 10-20% EtOAc/hexane to give 5.28 g of the crude product 5.28 g as a pale yellow oil. MS (m/z)=218 (M+H)+.

reactant | NaH | 79 mmol, 3.2 g | [H-].[Na+]
reactant | 2-(3-methoxyphenyl)acetonitrile | 26 mmol, 3.9 g | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | 1-bromo-2-(2-bromoethoxy)ethane | 26 mmol, 6.1 g | BrCCOCCBr | C4H8Br2O
solvent | NMP | 50 mL | CN1CCCC1=O | C5H9NO
product | 4-(3-Methoxyphenyl)-tetrahydro-2H-pyran-4-carbonitrile | 5.28 g | COC=1C=C(C=CC1)C1(CCOCC1)C#N | C13H15NO2
